US05332737
Using a similar process to that described in Example 1, 2-(indol-1-yl)-4-methylamino-1,3,5-triazine was reacted with methyl iodide to afford 4-methylamino-2-(indol-1-yl)-1-methyl-1,3,5-triazinium iodide in 29% yield as a solid, mp 284°-285° C. (after recrystallisation from methanol).

reactant | 2-(indol-1-yl)-4-methylamino-1,3,5-triazine | N1(C=CC2=CC=CC=C12)C1=NC=NC(=N1)NC | C12H11N5
reactant | methyl iodide | CI | CH3I
product | 4-methylamino-2-(indol-1-yl)-1-methyl-1,3,5-triazinium iodide | 29% yield | [I-].CNC1=NC(=[N+](C=N1)C)N1C=CC2=CC=CC=C12 | InChI=1S/C13H13N5.HI/c1-14-12-15-9-17(2)13(16-12)18-8-7-10-5-3-4-6-11(10)18;/h3-9H,1-2H3;1H
